Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Exertional chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x 3(LIMA->LAD, SVG-OM, 
RCA) 

 
History of Present Illness:
Mrs. ___ is a pleasant ___ year old ___ speaking woman 
with a history of diabetes mellitus, hyperlipidemia, 
hypertension, and peripheral vascular disease. She has noted 
chest discomfort with exertion over the past 6 months, which 
mainly occurs when she is walking upstairs. She describes the 
pain as a soreness in the middle of her chest and has occasional 
shortness of breath, but this is relived with rest. Her symptoms 
have worsened in the last few weeks. A cardiac catheterization 
demonstrated multivessel coronary artery disease. She was 
referred to Dr. ___ surgical intervention. She is 
otherwise doing well and she denies any recent fevers, chills, 
nausea or vomiting. Of note, she has a remote history of vein 
stripping which she believes was in her right leg and was done 
for varicose veins. 

Several weeks after her clinic appointment, she was admitted to 
the ___ from ___ to ___ with concerns for unstable angina. 
She ruled out for MI. While hospitalized, she underwent 
extensive workup and was cleared by vascular to proceed with 
cardiac surgery.
 
Past Medical History:
Coronary artery disease
Diabetes Mellitus
Gastroesophageal Reflux Disease
Hearing Loss
Hyperlipidemia
Hypertension
Hypothyroidism
Peripheral Vascular Disease
Thyroid Cancer
Appendectomy
Cholecystectomy
Ovarian cystectomy
Total thyroidectomy
PCI to Iliac artery
Right Leg Vein stripping
 
Social History:
___
Family History:
Mother died of cardiac problems at ___ years old; Mother with 
___
 
Physical Exam:
Admit PE:
BP: 128/65. Heart Rate: 76. O2 Saturation%: 100. Resp. Rate: 15.
Pain Score: 0.
Height: 61"    Weight: 139lb

General: well appearing, NAD
Skin: Dry [x] intact []
HEENT: PERRLA [x] EOMI []
Neck:  Supple [x] Full ROM []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema [] _____
Varicosities: None [x] Left GSV appeared OK
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: deferred  Left: deferred
DP           Right: palpable  Left: palpable
___           Right: palpable  Left: palpable
Radial       Right: palpable Left: palpable
Carotid Bruit:        Right: absent    Left: absent

Discharge PE:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x] diminished bases  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema trace
Left Lower extremity    Warm [x]  Edema 1+
Pulses:
DP             Right: p      Left:p
___             Right: p      Left:p
Radial         Right: p      Left:p
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena [x]
Upper extremity: Right [] Left [x]  CDI [x]
 
Pertinent Results:
STUDIES:
PA/LAT CXR ___ cardiomegaly is unchanged.  Small 
effusions in basal atelectasis are exaggerated on the lateral 
view performed at sub optimal inspiration.  There is no 
pneumothorax or pulmonary edema. 
.
INTRAOP TEE CONCLUSION: ___
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is mild regional 
left ventricular systolic dysfunction with mild hypokinesis of 
the basal inferior septum and inferior walls (see schematic) and 
preserved/normal contractility of the remaining segments. The 
visually estimated left ventricular ejection fraction is 55-60%. 
Left ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with tethering of the 
posterior mitral leaflet with no mitral valve prolapse. The 
tethering could be a mild form on rheumatic valve disease, but 
not definitive. Anterior leaflet excursion is normal. There is 
an eccentric, inferolateral directed jet of mild [1+] mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. There is a prominent anterior fat pad.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction most consistent with coronary 
artery disease. Mild eccentric mitral regurgitation with 
posterior leaflet tethering (? mild rheumatic mitral valve 
disease). No prior TTE available for comparison.
MEASUREMENTS:
LEFT ATRIUM ___ ATRIUM (RA)
___: 3.1cm (nl<=4.0)
___ 4Chamber Length: 5.9cm (nl<5.2)
___ Volume: 49mL
___ Volume Index: 30mL/m² (nl <35)
Pulm Vein S Peak: 0.6m/sec
Pulm Vein D Peak: 0.4m/sec
RA 4Chamber Length: 5.3cm (nl<5.2)
Inferior vena cava
diameter: 1.2cm
LEFT VENTRICLE (LV)
Septal Thickness: 1.0cm (nl M<1.1;F<1.0)
Inferolateral Thickness: 1.2cm (nl M<1.1;F<1.0)
End-diastolic (ED)
Dimension: 3.7cm (nl M<5.9;F<5.3)
End-systolic (ES)
Dimension: 2.8cm
Fractional Shortening: 24 % (nl>28%)
Visual Ejection
Fraction: 55-60% (nl
M:52-72;F:54-74)
Stroke Volume: 48mL
Cardiac Output: 3.2L/min (3.2.2.3)
Cardiac Index: 2.0L/min/
m² (nl>=2.0
Lateral e': 0.05m/sec (nl>0.08)
Septal e': 0.06m/sec (nl>0.08)
Transmitral E/e': 15 (nl<=8)
RIGHT VENTRICLE (RV)
Basal Diameter: 2.2cm (nl<4.2)
TAPSE: 1.7cm (nl>=1.7)
THORACIC AORTA/PULMONARY ARTERY (PA)
Sinus: 2.9cm (nl M<4.1;F<3.7)
Sinus Index: 1.8cm/m2 (nl M<2.2;F<2.3)
Ascending: 2.6cm (nl M<3.9;F<3.6)
Ascending Index: 1.6cm/m2 (nl M<2.0;F<2.3)
Arch: 2.6cm (nl<=3.0)
AORTIC VALVE (AV)
Peak Velocity: 1.4m/sec (nl<=2.0)
LV Outflow Tract (LVOT)
Diam: 1.8cm
LVOT VTI: 19cm
MITRAL VALVE (MV)
Peak E: 0.8m/sec
E Deceleration: 308ms (nl
140-250)
Peak A: 1.0m/sec
Peak E/A: 0.8
Rest mean gradient: 2mmHg
TRICUSPID VALVE (TV)
Peak Regurgitant Velocity: 2.1m/sec (nl<=2.5)
PA Systolic Pressure
(+RAP): <20mmHg(nl<25)
FINDINGS:
LEFT ATRIUM ___ VEINS: Normal ___ volume index.
RIGHT ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC): 
Mildly dilated RA.
LEFT VENTRICLE (LV): Mild symmetric hypertrophy. Normal cavity 
size. Mild focal systolic dysfunction (see
schematic). The visually estimated left ventricular ejection 
fraction is 55-60%. Low normal cardiac index
(2.0-2.5 L/min/m2). No ventricular septal defect. No resting 
outflow tract gradient.
RIGHT VENTRICLE (RV): Normal cavity size. Normal free wall 
motion.
AORTA: Normal sinus diameter for gender. Normal ascending 
diameter for gender. Normal arch diameter.
AORTIC VALVE (AV): Mildly thickend (3) leaflets. No stenosis. No 
regurgitation.
113/66 mmHg
EMR 2853-P-IP-OP (___) Name: ___ MRN: ___ Study 
Date: ___ 9:00:00 p. ___
MITRAL VALVE (MV): Mildly thickened leaflets. No systolic 
prolapse. Mild chordal thickening. Papillary
muscle fibrosis/calcification. Mild [1+] regurgitation. 
Inferolateraly directed regurgitant jet.
PULMONIC VALVE (PV): Normal leaflets. Physiologic regurgitation.
TRICUSPID VALVE (TV): Normal leaflets. Physiologic 
regurgitation. Normal pulmonary artery systolic
pressure.
PERICARDIUM: No effusion. Prominent anterior fat pd.
ADDITIONAL FINDINGS: Sinus rhythm present during study.
.
Carotid US ___: 
Right ICA <40% stenosis. 
Left ICA 60-69% stenosis. 
.
Noncon Chest CT ___
FINDINGS:    
HEART AND VASCULATURE: Approximately 20 mm from the sinus of 
Valsalva there is a 10 mm extent of anterior ascending aortic 
calcifications.  Distally, there is no calcifications spanning 
approximately 5.2 cm where there are calcifications at the 
origin of the right brachiocephalic artery.  The aortic arch and 
descending thoracic aorta are moderately calcified but normal in 
caliber. 
  
The heart and pericardium are within normal limits based on an 
unenhanced 
scan.  The origin of the left subclavian artery and left common 
carotid artery a moderately calcified.  Otherwise, the great 
vessels are conventional anatomy and within normal limits based 
on this nonenhanced scan.    There is moderate calcification of 
the aortic valve.  The there is severe three-vessel coronary 
artery calcifications.  There is a trace pericardial effusion.  
No significant pericardial effusion.  There is a stent anterior 
origin of the left vertebral artery. 
  
DISTANCE FROM THE STERNUM (approximation): 
  
Left brachiocephalic vein: 8 mm 
Brachiocephalic artery: 13 mm 
Right atrium: 20 mm 
Right ventricle: 16 mm 
Ascending aorta: 25 mm 
  
AXILLA, HILA, AND MEDIASTINUM: There are few calcified 
mediastinal lymph nodes which are not pathologically enlarged.  
No evidence of axillary or mediastinal lymphadenopathy is 
present.  No mediastinal mass or hematoma. 
  
PLEURAL SPACES: No pleural effusion.  No pneumothorax. 
  
LUNGS/AIRWAYS: Diffuse emphysema.  Otherwise, no evidence of 
focal 
consolidation or gland glass opacities.  No evidence of lung 
masses or 
concerning pulmonary nodules.  There is a 7 mm right apical 
calcified 
granuloma. 
  
BASE OF NECK: Unremarkable. 
  
ABDOMEN:  Included portion of the unenhanced upper abdomen 
demonstratesno 
remarkable findings. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION:    
Trace calcifications of proximal ascending aorta, as described 
above. No 
calcifications 5 cm proximal from the origin of the innominate 
artery. 
Moderate aortic arch and descending thoracic aortic 
calcifications.   
No acute intrathoracic process.   
Moderate aortic valve calcifications.  Severe three-vessel 
coronary artery 
calcifications. 

=
================================================================
LABS:
Admit:
___ 10:59AM BLOOD WBC-6.6 RBC-2.51* Hgb-7.6* Hct-23.4* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-13.2 RDWSD-44.7 Plt ___
___ 10:59AM BLOOD ___ PTT-33.9 ___
___ 01:32AM BLOOD Glucose-108* UreaN-9 Creat-0.6 Na-137 
K-4.6 Cl-107 HCO3-23 AnGap-7*
___ 11:52AM BLOOD UreaN-12 Creat-0.6 Cl-108 HCO3-23 
AnGap-11
___ 01:32AM BLOOD Calcium-8.3* Phos-4.0 Mg-2.1

Discharge:

___ 03:45AM BLOOD WBC-7.3 RBC-2.93* Hgb-8.7* Hct-26.9* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-13.9 RDWSD-46.0 Plt ___
___ 03:45AM BLOOD Plt ___
___ 03:45AM BLOOD Glucose-143* UreaN-11 Creat-0.5 Na-137 
K-3.9 Cl-98 HCO3-28 AnGap-11
 
Brief Hospital Course:
Mrs. ___ was a same day admit and on ___ she was taken 
directly to the operating room where she underwent a coronary 
artery bypass graft x 3. Please see operative note for surgical 
details. Following surgery she was transferred to the ___ for 
invasive monitoring in stable condition. Later this day she was 
weaned from sedation, awoke neurologically intact and extubated. 
 POD 1 found her alert and oriented and breathing comfortably.  
The patient was neurologically intact and hemodynamically 
stable.  Beta blocker was initiated and the patient was gently 
diuresed toward the preoperative weight.  The patient was 
transferred to the telemetry floor for further recovery.  Chest 
tubes and pacing wires were discontinued without complication.  
The patient was evaluated by the Physical Therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 5 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged to home in good condition with 
appropriate follow up instructions. Her Prevena sternal dressing 
should be removed on POD 7 (___).

 
 
Medications on Admission:
Medications - Prescription
ALENDRONATE - alendronate 70 mg tablet. tablet(s) by mouth 
weekly -  (Prescribed by Other Provider)
ALPRAZOLAM - alprazolam 1 mg tablet. tablet(s) by mouth @ 
bedtime as needed -  (Prescribed by Other Provider)
ATORVASTATIN - atorvastatin 80 mg tablet. tablet(s) by mouth 
daily -  (Prescribed by Other Provider)
CARVEDILOL - carvedilol 12.5 mg tablet. tablet(s) by mouth twice 
daily -  (Prescribed by Other Provider)
CLOPIDOGREL - clopidogrel 75 mg tablet. tablet(s) by mouth daily 
-  (Prescribed by Other Provider)
FAMOTIDINE - famotidine 20 mg tablet. tablet(s) by mouth daily - 
(Prescribed by Other Provider)
GLIMEPIRIDE [AMARYL] - Amaryl 2 mg tablet. tablet(s) by mouth 
daily -  (Prescribed by Other Provider)
LEVOTHYROXINE [LEVO-T] - Levo-T 125 mcg tablet. tablet(s) by 
mouth daily -  (Prescribed by Other Provider)
METFORMIN - metformin 500 mg tablet. tablet(s) by mouth twice 
daily -  (Prescribed by Other Provider)
PROPRANOLOL - propranolol ER 80 mg capsule,24 hr,extended 
release. capsule(s) by mouth 3 times daily -  (Prescribed by 
Other Provider)
 
Medications - OTC
ASPIRIN [ADULT ASPIRIN REGIMEN] - Adult Aspirin Regimen 81 mg 
tablet,delayed release. tablet(s) by mouth daily -  (Prescribed 
by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
4.  Metoprolol Tartrate 75 mg PO TID 
RX *metoprolol tartrate 50 mg 1.5 tablet(s) by mouth three times 
a day Disp #*140 Tablet Refills:*2 
5.  Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0 
6.  Ranitidine 150 mg PO BID Duration: 30 Days 
then resume your home Pepcid 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
7.  Senna 17.2 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*30 Tablet Refills:*0 
8.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
9.  Alendronate Sodium 70 mg PO QMON  
10.  ALPRAZolam 1 mg PO QHS:PRN insomnia  
11.  Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
12.  Atorvastatin 80 mg PO QPM  
13.  Clopidogrel 75 mg PO DAILY  
14.  glimepiride 2 mg oral DAILY  
15.  Levothyroxine Sodium 125 mcg PO DAILY  
16.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x 3
Past medical history:
Diabetes Mellitus
Gastroesophageal Reflux Disease
Hearing Loss
Hyperlipidemia
Hypertension
Hypothyroidism
Peripheral Vascular Disease
Thyroid Cancer
Appendectomy
Cholecystectomy
Ovarian cystectomy
Total thyroidectomy
PCI to Iliac artery
Right Leg Vein stripping
 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, Prevena in place
Left leg Incision - healing well,no erythema or drainage
Edema 
Right Lower extremity   trace
Left Lower extremity    1+

 
Discharge Instructions:
Prevena instructions
·       The Prevena Wound dressing should be left on for a total 
of 7 days post-operatively to receive the full benefit of the 
therapy.  The date of Day # ___ should be written on a piece of 
tape on the canister to ensure that the nurse from the ___ or 
Rehab facility knows when to remove the dressing and inspect the 
incision.  If the date is not written, please alert your nurse 
prior to discharge.  

·       You may shower, however, please avoid getting the 
dressing and suction canister soiled or saturated.  

·       You will be sent home with a shower bag to hold the 
suction canister while bathing. 

·        If the dressing does become soiled or saturated, turn 
the power off and remove the dressing.  The entire unit may then 
be discarded.  Should this happen, please notify your ___ nurse, 
so they may make plans to see you the following day to assess 
your incision.  

·       Once the Prevena dressing is removed, you may wash your 
incision daily with a plain white bar soap, such as Dove or 
___.  Do not apply any creams, lotions or powders to your 
incision and monitor it daily.  

·       If you notice any redness, swelling or drainage, please 
contact your surgeon's office at ___.  

Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___